US07084154B2
A solution of 5-phenylpent-4-ynoic acid (0.49 g), diphenylphosphoryl azide (0.66 mL) and triethylamine (0.43 mL) was refluxed in 15 mL toluene for 3 h. The reaction was cooled to rt and t-butyl alcohol was added. The reaction was refluxed for 16 h, then the volatile materials were removed via a rotary evaporator. The residue was purified by column chromatography on silica (2–6% ethyl acetate in hexanes) to give (4-phenyl-but-3-ynyl)-carbamic acid tert-butyl ester (0.3 g).

reactant | 5-phenylpent-4-ynoic acid | 0.49 g | C1(=CC=CC=C1)C#CCCC(=O)O | C11H10O2
reactant | diphenylphosphoryl azide | 0.66 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.43 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyl alcohol | C(C)(C)(C)O | C4H10O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (4-phenyl-but-3-ynyl)-carbamic acid tert-butyl ester | 0.3 g | C(C)(C)(C)OC(NCCC#CC1=CC=CC=C1)=O | C15H19NO2
